US05550292
A solution of 62 g of 3-(4-chlorobenzyloxy)-benzaldehyde and 20 g of cyclopropylmethylamine in 750 ml of methanol was stirred at room temperature for 15 minutes. Thereto was slowly added 12 g of sodium borohydride with ice-cooling. The resulting mixture was stirred at the same temperature for 1 hour. The reaction mixture was dissolved in 1 liter of chloroform. The solution was washed with water, dried with anhydrous magnesium sulfate, and subjected to vacuum distillation to remove the solvent, whereby 81 g of 3-(4-chlorobenzyloxy)-N-cyclopropylmethylbenzylamine was obtained.

reactant | 3-(4-chlorobenzyloxy)-benzaldehyde | 62 g | ClC1=CC=C(COC=2C=C(C=O)C=CC2)C=C1 | C14H11ClO2
reactant | cyclopropylmethylamine | 20 g | C1(CC1)CN | C4H9N
reactant | sodium borohydride | 12 g | [BH4-].[Na+]
solvent | methanol | 750 ml | CO | CH4O
solvent | chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-chlorobenzyloxy)-N-cyclopropylmethylbenzylamine | 81 g | ClC1=CC=C(COC=2C=C(CNCC3CC3)C=CC2)C=C1 | C18H20ClNO
